US07232821B2
a) 2-Methoxy-5-methylthiophenylboronic acid
1.6M butyllithium in hexanes (3.5 ml, 5.6 mmol) was added dropwise to a stirred solution of 2-bromo-4-methylthioanisole (1.165 g, 5 mmol) in anhydrous tetrahydrofuran (30 ml) at −100° C. under nitrogen and stirred for 5 minutes then warmed to −78° C. for 1 hour. Triisopropyl borate (2.82 g, 15 mmol) was added dropwise and the mixture allowed to warm to room temperature. Hydrochloric acid (30 ml, 30 mmol) were added and the mixture stirred vigorously for 1 hour. The organic phase was separated, washed with brine, dried (MgSO4), evaporated to dryness and the residue purified on Biotage using ethyl acetate/iso-hexane (3:7) to yield the title compound as a white solid. (616 mg, 62%).

reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | 2-bromo-4-methylthioanisole | 5 mmol, 1.165 g | BrC1=C(C=CC(=C1)C)SC | C8H9BrS
reactant | Triisopropyl borate | 15 mmol, 2.82 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 30 mmol, 30 ml | Cl | ClH
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Methoxy-5-methylthiophenylboronic acid | COC1=C(C=C(C=C1)SC)B(O)O | C8H11BO3S
